US07498440B2
1-{3-[(2-fluorophenyl)oxy]propyl}-4-[hydroxy(diphenyl)methyl]-1-azoniabicyclo[2.2.2]octane bromide
Following the general procedure outlined in Example 3, 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol (0.0282 g, 0.0960 mmol) and 3-bromopropyl 2-fluorophenyl ether (0.0274 g, 0.118 mmol) in 2 CH3CN/3 CHCl3 (4.0 mL) were reacted to give the desired product (0.0345 g, 68.3%). EI-MS m/z 446(M+) Rt (1.96 min).

reactant | 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol | 0.0960 mmol, 0.0282 g | N12CCC(CC1)(CC2)C(O)(C2=CC=CC=C2)C2=CC=CC=C2 | C20H23NO
reactant | 3-bromopropyl 2-fluorophenyl ether | 0.118 mmol, 0.0274 g | FC1=C(C=CC=C1)OCCCBr | C9H10BrFO
solvent | CH3CN | 4.0 mL | CC#N | C2H3N
product | 1-{3-[(2-fluorophenyl)oxy]propyl}-4-[hydroxy(diphenyl)methyl]-1-azoniabicyclo[2.2.2]octane bromide | 0.0345 g, 68.3% | [Br-].FC1=C(C=CC=C1)OCCC[N+]12CCC(CC1)(CC2)C(C2=CC=CC=C2)(C2=CC=CC=C2)O | InChI=1S/C29H33FNO2.BrH/c30-26-14-7-8-15-27(26)33-23-9-19-31-20-16-28(17-21-31,18-22-31)29(32,24-10-3-1-4-11-24)25-12-5-2-6-13-25;/h1-8,10-15,32H,9,16-23H2;1H/q+1;/p-1
